US08008414B2
Along with 264 mg (0.049 mmol) of polystyrene macroinitiator prepared in Example 77, 0.9 mg (0.005 mmol) of 2,2′-azobis(isobutyronitrile), 0.62 g (4.9 mmole) of n-butyl acrylate (same as above) and 1 ml of N,N-dimethylformamide (DMF) were placed into a glove box with the inside air replaced by nitrogen, followed by stirring at 60° C. for 4 hours. After the completion of the reaction, the reaction mixture was dissolved in 5 ml of chloroform, and the solution was then poured into 300 ml of hexane which was being stirred. The resulting polymer precipitate was collected by suction filtration and dried to obtain block copolymer of poly(styrene-b-n-butyl acrylate) (yield 94%).

reactant | 2,2′-azobis(isobutyronitrile) | 0.005 mmol, 0.9 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | n-butyl acrylate | 4.9 mmole, 0.62 g | C(C=C)(=O)OCCCC | C7H12O2
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | hexane | 300 ml | CCCCCC | C6H14
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | styrene b-n-butyl acrylate | yield 94% | C=CC1=CC=CC=C1.C(C=C)(=O)OC(C)CC | InChI=1S/C8H8.C7H12O2/c1-2-8-6-4-3-5-7-8;1-4-6(3)9-7(8)5-2/h2-7H,1H2;5-6H,2,4H2,1,3H3
